US07514451B2
5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (250 mg), (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (190 mg), triethylamine (0.17 mL) and dimethylsulfoxide (4 mL) were mixed together. The mixture was stirred at 100° C. for 9 hours and was subsequently concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: dichloromethane: methanol=40:1). The eluted yellow solid was recrystallized from ethanol to give 5-amino-1-cyclopropyl-7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid as yellow crystals (248 mg).

reactant | 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 250 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC)C1CC1)C(=O)O)=O | C14H12F2N2O4
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 190 mg | C1(CC1)NC[C@H]1CNC[C@H]1F | C8H15FN2
reactant | triethylamine | 0.17 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 4 mL | CS(=O)C | C2H6OS
product | 5-amino-1-cyclopropyl-7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 248 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@@H]([C@@H](C1)F)CNC1CC1)OC)C1CC1)C(=O)O)=O | C22H26F2N4O4
